US04436746
To a solution of 3-methylindole (7.87 g) and imidazole (20.42 g) in dioxane (350 ml) stirring at 10° is added a solution of bromine (3.1 ml) in dioxane (125 ml) dropwise over a period of 25 hrs. Upon complete addition, the cooling bath is removed and the resulting yellow suspension is allowed to warm to room temperature while stirring overnight. The solid which had formed is removed by vacuum filtration. The filtrate is concentrated in vacuo to give an amber oil. This oil is suspended in 2 N HCl (100 ml) and washed with ether (3×100 ml). The acidic layer is made basic to pH 10 with 3 N NaOH and extracted with ether (6×100 ml). The ether extract is dried (MgSO4), filtered and concentrated in vacuo to give a partially crystalline residue. This residue is triturated with petroleum ether/ether and the solid which resulted is collected and recrystallized from acetonitrile (30 ml) to give 2-(1-imidazolyl)-3-methylindole, m.p. 156°-158°.

reactant | 3-methylindole | 7.87 g | CC1=CNC2=CC=CC=C12 | C9H9N
reactant | imidazole | 20.42 g | N1C=NC=C1 | C3H4N2
reactant | bromine | 3.1 ml | BrBr | Br2
solvent | dioxane | 350 ml | O1CCOCC1 | C4H8O2
solvent | dioxane | 125 ml | O1CCOCC1 | C4H8O2
solvent | HCl | 2 N, 100 ml | Cl | ClH
product | 2-(1-imidazolyl)-3-methylindole | N1(C=NC=C1)C=1NC2=CC=CC=C2C1C | C12H11N3
